US05846995
N-(4-fluorophenyl)-2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carboxamide
Beginning with 0.011 gm (0.04 mMol) 2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carbonyl chloride and 0.08 mMol 4-fluoroaniline, 0.001 gm (7%) of the title compound were recovered.

reactant | 2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carbonyl chloride | 0.04 mMol, 0.011 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)C(=O)Cl)CC1)C | C15H16ClNO2
reactant | 4-fluoroaniline | 0.08 mMol | FC1=CC=C(N)C=C1 | C6H6FN
product | N-(4-fluorophenyl)-2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carboxamide | 0.001 gm, 7% | FC1=CC=C(C=C1)NC(=O)C=1C=CC2=C(C3=C(O2)CCC(C3)N(C)C)C1 | C21H21FN2O2
